US08378095B2
A mixture of tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-iodooxazol-5-yl)phenyl)piperazine-1-carboxylate (0.150 g, 0.28 mmol), tert-butyl 4-amino-1H-pyrazole-1-carboxylate (0.261 g, 1.42 mmol), cesium carbonate (0.462 g, 2.39 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.012 g, 0.013 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.0165 g, 0.029 mmol) in tBuOH (4.5 ml) and dioxane (4.5 ml) was degassed, placed under a nitrogen atmosphere and then stirred under reflux overnight. The reaction mixture was passed through a MP-SH cartridge and the solvent removed in vacuo. The residue was partitioned between water and EtOAc and the aqueous phase extracted with EtOAc and DCM. The combined organic phases were dried over MgSO4 and the solvent removed in vacuo. The residue was purified by preparative HPLC to afford 2-(1H-pyrazol-4-ylamino)-5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)oxazole-4-carboxylic acid (0.033 g, 0.073 mmol, 26%). LCMS (2) Rt: 1.68 min; m/z (ES+) 455.

reactant | tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-iodooxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.28 mmol, 0.150 g | C(C)OC(=O)C=1N=C(OC1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)I | C21H26IN3O5
reactant | tert-butyl 4-amino-1H-pyrazole-1-carboxylate | 1.42 mmol, 0.261 g | NC=1C=NN(C1)C(=O)OC(C)(C)C | C8H13N3O2
reactant | cesium carbonate | 2.39 mmol, 0.462 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.029 mmol, 0.0165 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | tBuOH | 4.5 ml | CC(C)(C)O | C4H10O
solvent | dioxane | 4.5 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.013 mmol, 0.012 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(1H-pyrazol-4-ylamino)-5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)oxazole-4-carboxylic acid | 0.073 mmol, 0.033 g, 26% | N1N=CC(=C1)NC=1OC(=C(N1)C(=O)O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C22H26N6O5
